US08008305B2
N-[2-(2-Fluoro-phenyl)-ethyl]-4-(2-methyl-benzoimidazol-1-ylmethyl)-benzamide
The title compound was prepared in analogy to example 1c, but using 2-(2-fluoro-phenyl)-ethylamine and 4-(2-methyl-benzoimidazol-1-ylmethyl)-benzoic acid as coupling components. MS (ISP): 388.2 ((M+H)+.).

reactant | 2-(2-fluoro-phenyl)-ethylamine | FC1=C(C=CC=C1)CCN | C8H10FN
reactant | 4-(2-methyl-benzoimidazol-1-ylmethyl)-benzoic acid | CC1=NC2=C(N1CC1=CC=C(C(=O)O)C=C1)C=CC=C2 | C16H14N2O2
product | N-[2-(2-Fluoro-phenyl)-ethyl]-4-(2-methyl-benzoimidazol-1-ylmethyl)-benzamide | FC1=C(C=CC=C1)CCNC(C1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)C)=O | C24H22FN3O
